US08227500B2
4-[3-Cyano-4-(2-hydroxyphenyl)pyrrole-1-yl]-2-methoxymethoxy benzoic acid ethyl ester
To a solution of 4-[4-(2-benzyloxyphenyl)-3-cyanopyrrole-1-yl]-2-methoxy-methoxy-benzoic acid ethyl ester (2.3 g) in a mixed solvent of ethyl acetate (20 mL) and methanol (20 mL) was added palladium-carbon powder under an argon atmosphere, and this mixture was stirred at room temperature under a hydrogen atmosphere for 5 hours. The insoluble material was removed by filtration, and this filtrate was concentrated under reduced pressure to give the title compound (1.4 g)

reactant | 4-[4-(2-benzyloxyphenyl)-3-cyanopyrrole-1-yl]-2-methoxy-methoxy-benzoic acid ethyl ester | 2.3 g | C(C)OC(C1=C(C(=C(C=C1)N1C=C(C(=C1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C#N)OC)OC)=O | C29H26N2O5
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
solvent | methanol | 20 mL | CO | CH4O
product | 4-[3-Cyano-4-(2-hydroxyphenyl)pyrrole-1-yl]-2-methoxymethoxy benzoic acid ethyl ester | 1.4 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=C(C=CC=C1)O)C#N)OCOC)=O | C22H20N2O5
